US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-5-(n-butylamino)valeric acid and ethyl 5-benzhydrylaminovalerate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-5-(n-butylamino)pentanoyl]-5-benzhydrylaminovaleric acid.

reactant | N-(p-chlorobenzoyl)-5-(n-butylamino)valeric acid | ClC1=CC=C(C(=O)N(CCCCC(=O)O)CCCC)C=C1 | C16H22ClNO3
reactant | ethyl 5-benzhydrylaminovalerate | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCC(=O)OCC | C20H25NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-5-(n-butylamino)pentanoyl]-5-benzhydrylaminovaleric acid | ClC1=CC=C(C(=O)N(CCCCC(=O)N(CCCCC(=O)O)C(C2=CC=CC=C2)C2=CC=CC=C2)CCCC)C=C1 | C34H41ClN2O4
